US07544813B2
Synthesis of 1-dodecyl-3-methylimidazolium 1,1,2,2-tetrafluoroethanesulfonate (Cation, imidazolium; Anion, Formula 1)
1-Dodecyl-3-methylimidazolium chloride (34.16 g, 0.119 moles) was partially dissolved in reagent-grade acetone (400 ml) in a large round-bottomed flask and stirred vigorously. Potassium 1,1,2,2-tetrafluoroethanesulfonate (TFES-K, 26.24 g, 0.119 moles) was added to reagent grade acetone (400 ml) in a separate round-bottomed flask, and this solution was carefully added to the 1-dodecyl-3-methylimidazolium chloride solution. The reaction mixture was heated at 60° C. under reflux for approximately 16 hours. The reaction mixture was then filtered using a large frit glass funnel to remove the white KCl precipitate formed, and the filtrate was placed on a rotary evaporator for 4 hours to remove the acetone.

reactant | 1-Dodecyl-3-methylimidazolium chloride | 0.119 moles, 34.16 g | [Cl-].C(CCCCCCCCCCC)[N+]1=CN(C=C1)C
reactant | Potassium 1,1,2,2-tetrafluoroethanesulfonate | 0.119 moles, 26.24 g | FC(C(F)F)(S(=O)(=O)[O-])F.[K+]
solvent | acetone | 400 ml | CC(=O)C | C3H6O
solvent | acetone | 400 ml | CC(=O)C | C3H6O
product | 1-dodecyl-3-methylimidazolium 1,1,2,2-tetrafluoroethanesulfonate | FC(C(F)F)(S(=O)(=O)[O-])F.C(CCCCCCCCCCC)[N+]1=CN(C=C1)C | InChI=1S/C16H31N2.C2H2F4O3S/c1-3-4-5-6-7-8-9-10-11-12-13-18-15-14-17(2)16-18;3-1(4)2(5,6)10(7,8)9/h14-16H,3-13H2,1-2H3;1H,(H,7,8,9)/q+1;/p-1
